US04870076
2-[2-(2-Thienylsulphonylamino)-ethyl]-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and 2-thienylsulphonylchloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | 2-thienylsulphonylchloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 2-[2-(2-Thienylsulphonylamino)-ethyl]-1-methylpyrrol | S1C(=CC=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C11H14N2O2S2
